US05650510
A mixture of 1-acetoxy-2-(chloromethoxy)ethane (67.8 g, 444 mmol) and triethylphosphite (81.3 g, 490 mmol) was heated at 105°-110° C. for 12 hours. Vigorous gas evolution was noted initially. The reaction mixture was next cooled to room temperature and the crude material purified by distillation (0.9 mmHg, 130°-134° C.) to afford 76.9 g (68%) of 1-acetoxy-2-(diethylphosphonomethoxy)ethane as a colorless liquid.

reactant | 1-acetoxy-2-(chloromethoxy)ethane | 444 mmol, 67.8 g | C(C)(=O)OCCOCCl | C5H9ClO3
reactant | triethylphosphite | 490 mmol, 81.3 g | C(C)OP(OCC)OCC | C6H15O3P
product | 1-acetoxy-2-(diethylphosphonomethoxy)ethane | 76.9 g, 68% | C(C)(=O)OCCOCP(=O)(OCC)OCC | C9H19O6P
